US04244953
In a manner similar to Example 1, p-fluorophenyl acetic acid is treated with Vilsmeier reagent to produce 3-(dimethylamino)-2-(4-fluorophenyl)-2-propenal. Treatment of this product with cyanoacetamide and sodium methoxide provides 1,2-dihydro-5-(4-fluorophenyl)-2-oxo-3-pyridinecarbonitrile. Hydrolysis of this product with acid gives 1,2-dihydro-5-(4-fluorophenyl)-2-oxo-3-pyridinecarboxylic acid. Treatment of this product with quinoline affords 5-(4-fluorophenyl)-2(1H)-pyridone, which is reacted with phosphorus oxychloride to give 2-chloro-5-(4-fluorophenyl)pyridine. Treatment of the above product with hydrazine produces 2-hydrazino-5-(4-fluorophenyl)pyridine. Treatment of this product with ethyl orthoacetate produces 6-(4-fluorophenyl)-3-methyl-1,2,4-triazolor[4,3-a]pyridine which yields the product of the Example on hydrogenation.

reactant | p-fluorophenyl acetic acid | FC1=CC=C(C=C1)CC(=O)O | C8H7FO2
reactant | Vilsmeier reagent | C[N+](=CCl)C.[Cl-]
product | 3-(dimethylamino)-2-(4-fluorophenyl)-2-propenal | CN(C=C(C=O)C1=CC=C(C=C1)F)C | C11H12FNO
